US07550459B2
(8-Azabicyclo[3.2.1]oct-3-ylidene)acetic acid ethyl ester
To 3-ethoxycarbonylmethylene-8-azabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (12.3 g, 41.8 mmol) in CH2Cl2 was added TFA (10 ml) and the reaction was stirred for 8 h. The solution was concentrated under reduced pressure, diluted with CH2Cl2, and washed first with 2 M NaOH and followed by brine. The water phases were thereafter back-extracted with EtOAc and the combined organic phase was dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude title product was used without further purification (7.04 g, 37.9 mmol, 91%).

reactant | 3-ethoxycarbonylmethylene-8-azabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 41.8 mmol, 12.3 g | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=CC(=O)OCC | C16H25NO4
reactant | TFA | 10 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (8-Azabicyclo[3.2.1]oct-3-ylidene)acetic acid ethyl ester | C(C)OC(C=C1CC2CCC(C1)N2)=O | C11H17NO2
